US07541357B2
To a mixture of 1H-Indole-2-carboxylic acid (2.50 g, 15.5 mmol) and acetyl chloride (31 mL, 0.43 mol) in Et2O (31.5 mL) was added phosphorus pentachloride (3.55 g, 17.1 mmol) in portions, and the mixture was then heated under reflux for 1.5 hours. The cooled reaction mixture was concentrated under reduced pressure, and the crude product obtained thus was recrystallized from heptanes to give 1H-indole-2-carbonyl chloride (2.04 g, 73%) as yellow needles.

reactant | 1H-Indole-2-carboxylic acid | 15.5 mmol, 2.50 g | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | acetyl chloride | 0.43 mol, 31 mL | C(C)(=O)Cl | C2H3ClO
reactant | phosphorus pentachloride | 17.1 mmol, 3.55 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | Et2O | 31.5 mL | CCOCC | C4H10O
product | 1H-indole-2-carbonyl chloride | 2.04 g, 73% | N1C(=CC2=CC=CC=C12)C(=O)Cl | C9H6ClNO
